US09303007B2
Pd(Ph3P)4 (28.5 mg, 0.025 mmol) was added to a degassed solution of 6-bromo-2-chloroquinoxaline (60 mg, 0.246 mmol), (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (115 mg, 0.271 mmol) and sodium bicarbonate (62.1 mg, 0.739 mmol) in dioxane (1 mL) and H2O (0.2 mL) and the mixture was stirred at 110° C. for 2 h and then at 120° C. for 2 h. The reaction was diluted with MeOH, filtered and purified by prep HPLC (H2O-MeOH with 10 mM NH4OAc buffer) to yield (1R,3S,5R)-tert-butyl 3-(6-(6-bromoquinoxalin-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (102.2 mg, 0.202 mmol, 82% yield) as bright yellow solid. LC-MS retention time 2.31 min; m/z 506 [M+H]+. (Column PHENOMENEX® Luna 3.0×50 mm S10. Solvent A=90% water: 10% methanol: 0.1% TFA. Solvent B=10% water: 90% methanol: 0.1% TFA. Flow Rate=4 mL/min. Start % B=0. Final % B=100. Gradient Time=3 min. Wavelength=220).

reactant | 6-bromo-2-chloroquinoxaline | 0.246 mmol, 60 mg | BrC=1C=C2N=CC(=NC2=CC1)Cl | C8H4BrClN2
reactant | (1R,3S,5R)-tert-butyl 3-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.271 mmol, 115 mg | CC1(OB(OC1(C)C)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1)C | C23H32BN3O4
reactant | sodium bicarbonate | 0.739 mmol, 62.1 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
solvent | MeOH | CO | CH4O
catalyst | Pd(Ph3P)4 | 0.025 mmol, 28.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,3S,5R)-tert-butyl 3-(6-(6-bromoquinoxalin-2-yl)-1H-benzo[d]imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.202 mmol, 102.2 mg, 82% yield | BrC=1C=C2N=CC(=NC2=CC1)C=1C=CC2=C(NC(=N2)[C@H]2N([C@@H]3C[C@@H]3C2)C(=O)OC(C)(C)C)C1 | C25H24BrN5O2
